US08426414B2
Part B. ((1S,2S)-1-{[[(trans)-2-(5-Fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4′-methoxymethyl-biphenyl-4-yl)-amino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester
To 80 mg (0.15 mmol) of the aryl bromide, [(1S,2S)-1-({(4-bromo-phenyl)-[(trans)-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester, in a microwave vial was added boronic acid (26 mg, 0.158 mmol), K2CO3 (41.5 mg, 0.301 mmol), PdCl2(PPh3)2 (5.3 mg, 0.008 mmol), 6 mL of MeCN, and 1 mL of water. The resulting mixture was microwaved at 140° C. for 30 min. It was then diluted with EtOAc, washed with water, brine and concentrated, and then purified in the neutral PREP HPLC to give 62 mg (72%) of the desired product.

reactant | [(1S,2S)-1-({(4-bromo-phenyl)-[(trans)-2-(5-fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-amino}-methyl)-2-methyl-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C(=O)[C@H]1[C@@H](C1)C1=NC=C(C=C1)F)C1=CC=C(C=C1)Br)=O | C26H33BrFN3O3
reactant | boronic acid | 0.158 mmol, 26 mg | B(O)O | BH3O2
reactant | K2CO3 | 0.301 mmol, 41.5 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeCN | 6 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.008 mmol, 5.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 1 mL | O | H2O
product | ((1S,2S)-1-{[[(trans)-2-(5-Fluoro-pyridin-2-yl)-cyclopropanecarbonyl]-(4′-methoxymethyl-biphenyl-4-yl)-amino]-methyl}-2-methyl-butyl)-carbamic acid tert-butyl ester | 62 mg, 72% | C(C)(C)(C)OC(N[C@@H]([C@H](CC)C)CN(C1=CC=C(C=C1)C1=CC=C(C=C1)COC)C(=O)[C@H]1[C@@H](C1)C1=NC=C(C=C1)F)=O | C34H42FN3O4
